US06316468B1
Step 3: 3-(1-Methylpiperidin-4-yl)-2-phenyl-1H-indole
3-(Piperidin-4-yl)-2-phenyl-1H-indole (200 mg, 0.7 mmol), sodium cyanoborohydride (51 mg, 0.8 mmol), formaldehyde (60 μl, 40% in H2O, 0.8 mmol) and AcOH (97 μl, 1.7 mmol) were stirred in MeOH (5 ml) at 0° C. for 1 h, then room temperature for 2 h. The solution was poured into saturated NaHCO3 solution and extracted with EtOAc. The organic layer was washed with water and brine, dried, and evaporated in vacuo to give white crystals (49 mg, 23%), mp 245-246° C. (from EtOH); δH (360 MHz, d6-DMSO) 1.88 (2H, d, J 13, NCH2CHAHB), 2.60-2.80 (2H, m, NCH2CHAHB), 2.76 (3H, s, CH3), 3.00-3.20 (3H, m, CH2CH and NCHAHB), 3.44 (2H, d, J 12, NCHAHB), 6.99 (1H, t, J 7, indole-H), 7.09 (1H, t, J 7, indole-H), 7.20-7.50 (6H, m, ArH), 7.98 (1H, d, J 7, ArH), 11.20 (1H, br s, indole NH); m/z (ES+) 291 (M++H).

reactant | 3-(Piperidin-4-yl)-2-phenyl-1H-indole | 0.7 mmol, 200 mg | N1CCC(CC1)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C19H20N2
reactant | sodium cyanoborohydride | 0.8 mmol, 51 mg | C(#N)[BH3-].[Na+]
reactant | formaldehyde | 0.8 mmol, 60 μl | C=O | CH2O
reactant | AcOH | 1.7 mmol, 97 μl | CC(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 3-(1-Methylpiperidin-4-yl)-2-phenyl-1H-indole | 49 mg, 23% | CN1CCC(CC1)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C20H22N2
